US08017601B2
N-(6-(1H-indol-4-yl)naphthalen-2-yl)thiophene-3-carboxamide
4-bromo-1H-indole (31.0 mg, 0.158 mmol), N-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalen-2-yl)thiophene-3-carboxamide (114.5 mg, 0.302 mmol), Fibercat palladium catalyst (Johnson-Matthey, 34.5 mg), and K2CO3 (2 M in water, 0.45 ml, 0.90 mmol) were combined in a microwave reaction vessel and 1,4-dioxane (1.5 ml) was added. The reaction tube was sealed and heated in the microwave (CEM microwave) at 60 Watts and 80 C, first for 10 minutes, and then for 20 minutes. The reaction was cooled to room temperature, diluted with water (5 ml), and extracted with EtOAc (10 ml, 2×5 ml). The organic extracts were combined, dried over sodium sulfate, filtered, concentrated, and purified on HPLC (10%->95% MeCN/water with 0.1% TFA). The fractions with product were purified on silica gel (3:1->1:1 hexanes/EtOAc) to afford title compound (12.8 mg, 22%). MS (ESI pos. ion) m/z: 369 (M+H). Calc'd Exact Mass for C23H16N2OS: 368.

reactant | 4-bromo-1H-indole | 0.158 mmol, 31.0 mg | BrC1=C2C=CNC2=CC=C1 | C8H6BrN
reactant | N-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalen-2-yl)thiophene-3-carboxamide | 0.302 mmol, 114.5 mg | CC1(OB(OC1(C)C)C=1C=C2C=CC(=CC2=CC1)NC(=O)C1=CSC=C1)C | C21H22BNO3S
reactant | K2CO3 | 0.90 mmol, 2 M, 0.45 ml | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,4-dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
catalyst | palladium | 34.5 mg | [Pd] | Pd
solvent | water | 5 ml | O | H2O
product | N-(6-(1H-indol-4-yl)naphthalen-2-yl)thiophene-3-carboxamide | 12.8 mg, 22% | N1C=CC2=C(C=CC=C12)C=1C=C2C=CC(=CC2=CC1)NC(=O)C1=CSC=C1 | C23H16N2OS
